US08372842B2
TFA (1 mL) was added to tert-butyl 4-(3-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.068 g, 0.123 mmol) in DCM (1 mL) and stirred at room temperature for 2 hours. The reaction was then concentrated to dryness and dried under vacuum for 1 hour. TFA (2 mL) was added, and the mixture was heated at 100° C. in a sealed tube for 20 hours. The reaction was concentrated to dryness. The resulting residue was dissolved in DCM (1 mL), and HCl in ether (1 mL, 2N) was added. The resulting solid was collected by filtration to give 3-(4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-3-yloxy)propane-1,2-diol dihydrochloride (0.042 g, 70%). MS APCI (+) m/z 294.2 detected.

reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 4-(3-((2,2-dimethyl-1,3-dioxolan-4-yl)methoxy)-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.123 mmol, 0.068 g | CC1(OCC(O1)COC1=NN(C2=NC=CC(=C21)N2CCN(CC2)C(=O)OC(C)(C)C)CC2=CC=C(C=C2)OC)C | C29H39N5O6
reactant | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-3-yloxy)propane-1,2-diol dihydrochloride | 0.042 g, 70% | Cl.Cl.N1(CCNCC1)C1=C2C(=NC=C1)NN=C2OCC(CO)O | InChI=1S/C13H19N5O3.2ClH/c19-7-9(20)8-21-13-11-10(18-5-3-14-4-6-18)1-2-15-12(11)16-17-13;;/h1-2,9,14,19-20H,3-8H2,(H,15,16,17);2*1H
